US07772226B2
(e) t-Butyl 4-[7-dimethylamino-5-methyl-4-oxo-4,5-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]piperazine-1-carboxylate
A 5 ml tetrahydrofuran solution of 0.117 g of t-butyl 4-[1-benzyl-7-dimethylamino-5-methyl-4-oxo-4,5-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]piperazine-1-carboxylate was added to 15 ml of liquid ammonia, and 0.009 g of lithium was added to the mixture under reflux. 1 ml of a 5% aqueous ammonium chloride solution was added to the solution, and the solvent was evaporated off. The residue was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase (containing 0.1% trifluoroacetic acid)) to give 0.007 g of the title compound.

reactant | t-butyl 4-[1-benzyl-7-dimethylamino-5-methyl-4-oxo-4,5-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]piperazine-1-carboxylate | 0.117 g | C(C1=CC=CC=C1)N1C(=NC2=C1C(=NN(C2=O)C)N(C)C)N2CCN(CC2)C(=O)OC(C)(C)C | C24H33N7O3
reactant | ammonia | N | H3N
reactant | lithium | 0.009 g | [Li] | Li
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | t-Butyl 4-[7-dimethylamino-5-methyl-4-oxo-4,5-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]piperazine-1-carboxylate | 0.007 g | CN(C1=NN(C(C2=C1NC(=N2)N2CCN(CC2)C(=O)OC(C)(C)C)=O)C)C | C17H27N7O3
